US07087750B2
4-Bromo-1-(tri-isopropylsilyl)-1H-indole (Scheme 1)
The NaH 60% dispersion in oil (0.94 g, 23.4 mmol) was added to a solution of 4-bromoindole (3.07 g, 15.6 mmol) and triisopropylsilyl chloride (3.62 g, 18.8 mmol) in CH2Cl2 (50 mL) and DMF (2 mL). The reaction was stirred at room temperature for 1 h and quenched with water. The insoluble material was filtered off and the solvent was removed. Purification by column chromatography (SiO2, CH2Cl2/heptane 1:4) yielded 3.44 g (63%) of the title compound: 1H NMR (CDCl3) δ 7.42–6.63 (m, 5 H), 1.66 (sept, J=8 Hz, 3 H), 1.10 (d, J=8 Hz, 18H; MS (ESI) 354.4 (M+H)+; Purity (HPLC) >95%.

reactant | NaH | [H-].[Na+]
reactant | 4-bromoindole | 15.6 mmol, 3.07 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | triisopropylsilyl chloride | 18.8 mmol, 3.62 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-1-(tri-isopropylsilyl)-1H-indole | 3.44 g, 63% | BrC1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
